US04329285
A solution of 1 g (RS) α-hydrazino-2-thienylacetic acid in 3 ml formic acid is stirred at 4° C. and treated dropwise with a solution of 3 ml acetoformic anhydride. Stirring is continued for 20 minutes at the same temperature and for a further 30 minutes at ambient temperature, then the product is evaporated to dryness, taken up with diethyl ether and the so obtained solid is triturated with ethyl ether collected under vacuum, to give 1.26 g (RS) α-(1.2-diformylhydrazino)-2-thienylacetic acid melting at 168°-170° C. (with decomposition).

reactant | (RS) α-hydrazino-2-thienylacetic acid | 1 g | N(N)C(C(=O)O)C=1SC=CC1 | C6H8N2O2S
reactant | acetoformic anhydride | 3 ml | CC(=O)C(=O)OC(=O)C(=O)C | C6H6O5
reactant | formic acid | 3 ml | C(=O)O | CH2O2
product | (RS) α-(1.2-diformylhydrazino)-2-thienylacetic acid | 1.26 g | C(=O)N(NC=O)C(C(=O)O)C=1SC=CC1 | C8H8N2O4S
